US04990633
Preparation of 1,2-bis-(4-sulphophenoxy)-3,3,4,4,5,5-hexafluorocyclopent-1-ene
43.2 (0.3 mol) of 4-hydroxybenzenesulphonic acid (as a 65% strength aqueous solution) and 60.6 g (0.6 mol) of triethylamine were initially introduced at 5° C. in 200 ml of dimethylformamide. 31.8 g (0.15 mol) of perfluorocyclopentene were added dropwise in the course of 15 minutes and the mixture was subsequently stirred at 60° C. for 17 hours. 200 ml of methylene chloride were then added, and the reaction mixture was washed with 200 ml of water, then with 200 ml of 10% strength by weight hydrochloric acid and then again with 200 ml of water and dried. After stripping off the solvent on a rotary evaporator, 47.5 g of an oily crystalline residue remained, which was recrystallized from glacial acetic acid. 27.5 g of crystalline product having a melting point of 251° to 255° C. were obtained, which corresponds point of 251° to 255° C. were obtained, which corresponds to 35.3% of theory. A further 35 g of crude product were isolated from the washing water after acidification and concentration. The mass spectrum of the recrystallized material showed a value for m/e of 520 for the molecular ion.

reactant | 4-hydroxybenzenesulphonic acid | OC1=CC=C(C=C1)S(=O)(=O)O | C6H6O4S
reactant | triethylamine | 0.6 mol, 60.6 g | C(C)N(CC)CC | C6H15N
reactant | perfluorocyclopentene | 0.15 mol, 31.8 g | FC1=C(C(C(C1(F)F)(F)F)(F)F)F | C5F8
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,2-bis-(4-sulphophenoxy)-3,3,4,4,5,5-hexafluorocyclopent-1-ene | 35 g | S(=O)(=O)(O)C1=CC=C(OC2=C(C(C(C2(F)F)(F)F)(F)F)OC2=CC=C(C=C2)S(=O)(=O)O)C=C1 | C17H10F6O8S2
